US07326791B2
N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(2R)-2-hydroxymethylpyrrolidin-1-ylcarbonyl]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from (1S)—N-[1-(1-tert-butoxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin 1-ylcarbonyl)benzamide, TB TU, diisopropylethyl amine, (R)-prolinol in acetonitrile, and subsequent reaction with trifluoroacetic acid analogously to Example 17. Yield: 67%; Rf value: 0.30 (silica gel; ethyl acetate/ethanol=85:15); C29H34ClN5O4 (552.07); mass spectrum: (M+H)+=552/554 (chlorine isotope).

reactant | (1S)—N-[1-(1-tert-butoxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin 1-ylcarbonyl)benzamide | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)Cl)[C@H](CCC(=O)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C29H33ClN4O6
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-prolinol | N1[C@@H](CO)CCC1 | C5H11NO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(2R)-2-hydroxymethylpyrrolidin-1-ylcarbonyl]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 67% | ClC1=CC2=C(NC(=N2)[C@H](CCC(=O)N2[C@H](CCC2)CO)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C29H34ClN5O4
